US07713970B2
DMF (5.0 ml) was cooled to 0° C. and stirred as 0.48 gram (0.0074 mole) of sodium azide was added. To this mixture was added 50 milligrams of aluminum chloride. The mixture was heated to 70° C. for 15 minutes, then the known compound 3-chlorophenylisocyanate was added neet in one portion. The mixture was heated at 75° C. for 3 hours and then cooled and poured into 100 ml of water containing 0.5 gram of sodium nitrite and 50 grams ice. To this was slowly added sufficient 10% hydrogen chloride to cause a change in KI/starch test paper. The resulting solid was filtered and dried. The filtrate was dissolved in ethyl acetate, washed with water and concentrated to a residue. The crude residue was purified with column chromatography on silica gel using 95:5 dichloromethane-methanol as an eluant yielding 0.38 gram of 1-(3-chlorophenyl)-tetrazolin-5-one.

reactant | sodium azide | 0.0074 mole, 0.48 gram | [N-]=[N+]=[N-].[Na+]
reactant | aluminum chloride | 50 milligrams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 3-chlorophenylisocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | hydrogen chloride | Cl | ClH
solvent | water | 100 ml, 0.5 gram | O | H2O
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | 1-(3-chlorophenyl)-tetrazolin-5-one | 0.38 gram | ClC=1C=C(C=CC1)N1N=NNC1=O | C7H5ClN4O
